US08802675B2
Synthesis of 5-((4-(propargyl)piperidin-1-yl)methyl)quinolin-8-yl dimethylcarbamate (compound 23)
To a suspension of NaH (24 mg, 0.6 mmol 1.2 equiv) in anhydrous THF, HLA20 (140 mg, 0.5 mmol, 1.0 equiv) was added under Ar at 0° C. The resulting mixture was stirred for 20 min at 0° C. A solution of dimethyl carbamoyl chloride (1.1 equiv) in anhydrous THF was added, and the stirring was continued for 24 h at room temperature. After evaporation of the solvent, water was added and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine and dried with NaSO4. Evaporation of the solvent gave a crude product that was purified by RP HPLC.

reactant | NaH | 0.6 mmol, 24 mg, 1.2 equiv | [H-].[Na+]
reactant | HLA20 | 0.5 mmol, 140 mg, 1.0 equiv | C#CCN1CCN(CC1)CC2=C3C=CC=NC3=C(C=C2)O | C17H19N3O
reactant | dimethyl carbamoyl chloride | 1.1 equiv | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | C1CCOC1 | C4H8O
product | 5-((4-(propargyl)piperidin-1-yl)methyl)quinolin-8-yl dimethylcarbamate | Yield: 86% | CN(C(OC=1C=CC(=C2C=CC=NC12)CN1CCC(CC1)CC#C)=O)C | C21H25N3O2
